US07932271B2
2-[[5-Chloro-4-[(2,5-difluorophenyl)-(4-fluorophenylthio)methyl]pyridin-2-yl]amino]ethanol
A 1,4-dioxane (1.5 ml) solution of 2,5-dichloro-4-[(2,5-difluorophenyl)-(4-fluorophenylthio)methyl]pyridine (200 mg, 0.50 mmol) and 2-aminoethanol (300 μl) was stirred at 120° C. for 2 days under an argon atmosphere. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=1:1) to give the title compound (120 mg, 56%) as an oil.

reactant | 2,5-dichloro-4-[(2,5-difluorophenyl)-(4-fluorophenylthio)methyl]pyridine | 0.50 mmol, 200 mg | ClC1=NC=C(C(=C1)C(SC1=CC=C(C=C1)F)C1=C(C=CC(=C1)F)F)Cl | C18H10Cl2F3NS
reactant | 2-aminoethanol | 300 μl | NCCO | C2H7NO
solvent | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
product | 2-[[5-Chloro-4-[(2,5-difluorophenyl)-(4-fluorophenylthio)methyl]pyridin-2-yl]amino]ethanol | 120 mg, 56% | ClC=1C(=CC(=NC1)NCCO)C(SC1=CC=C(C=C1)F)C1=C(C=CC(=C1)F)F | C20H16ClF3N2OS
